US06417192B1
A mixture of 5-bromopyrimidine (100 g), acrylic acid (48 g), triphenylphosphine (2.5 g) and palladium II acetate (0.1 g) was refluxed in tri-n-butylamine (260 ml) with overhead stirring for 4.5 h at 145-160° C. The mixture was cooled and a 10% solution of potassium carbonate (2 L) added followed by dichloromethane (500 mL). The organic layer was separated and the aqueous phase extracted with diethyl ether (3×300 ml). The aqueous layer was brought to pH 3 with concentrated hydrochloric acid (ice-cooling) and the solid so formed was filtered and dried in vacuo to give 3-(5-pyrimidyl)acrylic acid (35 g). 1H-NMR (d6-DMSO) δ 6.82(1H, d), 7.60(1H, d) and 9.15(3H, 2xs)

reactant | 5-bromopyrimidine | 100 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | acrylic acid | 48 g | C(C=C)(=O)O | C3H4O2
reactant | potassium carbonate | 2 L | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | tri-n-butylamine | 260 ml | C(CCC)N(CCCC)CCCC | C12H27N
catalyst | palladium II acetate | 0.1 g | CC(=O)O.CC(=O)O.[Pd]
catalyst | triphenylphosphine | 2.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-(5-pyrimidyl)acrylic acid | 35 g | N1=CN=CC(=C1)C=CC(=O)O | C7H6N2O2
